* Diode Circuit
V1 P001 0 PULSE(0 1 1m 1u 1u 10m 20m 0) ; input
R1 P002 P001 100
C1 P002 0 1n ; output:V
DP P002 0 ; root custom:1,prefix=wdf_lib::diode::,params=Diode_Params,vars=Diode_Vars,updater=update_vars,compute=root_compute
.tran 0 50m 0 10u
.meta:include:<wdf_lib_diode.h>
.backanno
.end
